US05698579
A mixture of 3-(1-oxoisoindolin-2-yl)-3-(3-ethoxy-4-methoxyphenyl)propionic acid (12.6 g, 35.4 mmol) and 1,1'-carbonyldiimidazole (5.97 g, 36.8 mmol), in tetrahydrofuran (100 mL) was stirred for 1.5 hours at room temperature. To the solution was added ammonium hydroxide (7.5 mL, 112.5 mmol, 28-30%) and stirring was continued for 20 minutes. The tetrahydrofuran was removed in vacuo and the remaining residue was slurried in 100 mL of water for 30 minutes. The mixture was filtered and the white solid was washed with water (150 mL), air dried and dried in vacuo (60° C., <1 mm). The resulting solid was recrystallized form ethyl acetate (1.1 L) and was then dried in vacuo (60° C., <1 mm) to afford 9.61 g (77%) of 3-(1-oxoisoindolin2-yl)-3-(3-ethoxy-4-methoxyphenyl)propionamide as a white solid: mp 169-171.5; 1H NMR (DMSO-d6) δ7.75-7.40 (m, 5H), 7.05-6.80 (m, 4H), 5.75 (m, 1H), 4.56 (d, J=17.6 Hz, 1H), 4.14 (d, J=17.6 Hz, 1H), 3.98 (m, 2H), 3.72 (s, 3H), 2.93 (m, 2H), 1.30 (t, J=6.9 Hz, 3H), 13C NMR (DMSO-d6) δ171.2, 166.8, 148.3, 147.8, 141.6, 132.2, 132.1, 131.2, 127.8, 123.4, 122.7, 119.1, 112.1, 111.7, 63.6, 55.4, 51.3, 46.2, 37.8, 14.6; Anal. Calcd. for C20 H22N2O5. Theoretical: C, 67.78; H, 6.26; N, 7.90. Found: C, 67.89; H, 6.31; N, 7.83.

reactant | 3-(1-oxoisoindolin-2-yl)-3-(3-ethoxy-4-methoxyphenyl)propionic acid | 35.4 mmol, 12.6 g | O=C1N(CC2=CC=CC=C12)C(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C20H21NO5
reactant | 1,1'-carbonyldiimidazole | 36.8 mmol, 5.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 112.5 mmol, 7.5 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-(1-oxoisoindolin2-yl)-3-(3-ethoxy-4-methoxyphenyl)propionamide | 9.61 g, 77% | O=C1N(CC2=CC=CC=C12)C(CC(=O)N)C1=CC(=C(C=C1)OC)OCC | C20H22N2O4
